US05430171
In a 100 ml Hastelloy-made autoclave having been purged with nitrogen were charged 38.8 g (0.2 mol) of n-butyl 4-chloroacetoacetate and 50 ml of n-butyl alcohol, and solution of 73 mg of Ru2Cl2 [(R)-(+)-BINAP]2Et3N in 2 ml of methylene chloride was added thereto. The mixture was stirred at 100° C. under a hydrogen pressure of 11 to 12 kg/cm2 for 2 hours to conduct hydrogenation. The solvent was evaporated, and the residue was distilled under reduced pressure to give 35.0 g (percent yield: 90%) of n-butyl (S)-(-)-4-chloro-3-hydroxybutyrate.

reactant | n-butyl 4-chloroacetoacetate | 0.2 mol, 38.8 g | ClCC(CC(=O)OCCCC)=O | C8H13ClO3
reactant | n-butyl alcohol | 50 ml | C(CCC)O | C4H10O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | n-butyl (S)-(-)-4-chloro-3-hydroxybutyrate | 35.0 g, yield: 90% | ClC[C@H](CC(=O)OCCCC)O | C8H15ClO3
